US05994396
Synthesis of N-n-Butylfuran-2-carboxamide
To a solution of n-butylamine (99 mL, 1.0 mol) in CH2Cl2 (300 mL) was added 2-furoyl chloride (33.0 mL, 0.335 mol) dropwise at 0-5° C. with stirring. The reaction mixture was stirred for additional 2 h at 0-5° C. and overnight at room temperature. The solution was poured into a mixture of wet-ice (200 g) and 37% HCl (50 mL). After separation, the organic layer was washed with 2×200 mL water, dried over Na2SO4 and filtered. Removal of solvent provided the title compound (49.59 g, 88.6% yield) as a white solid, m.p.=43.8° C. (Rf=0.53 on a silica gel plate using EtOAc as an eluant). This product was used without further purification.

reactant | n-butylamine | 1.0 mol, 99 mL | C(CCC)N | C4H11N
reactant | 2-furoyl chloride | 0.335 mol, 33.0 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | HCl | 50 mL | Cl | ClH
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-n-Butylfuran-2-carboxamide | 49.59 g, 88.6% yield | C(CCC)NC(=O)C=1OC=CC1 | C9H13NO2
